US07087601B2
Utilizing the general procedure outlined for 2-[3-methoxy-4-(pyrrolidin-1-ylmethyl)phenyl]-1,3-benzoxazole, 2-[4-(bromomethyl)-3-methoxyphenyl]-1,3-benzoxazole (300 mg, 0.942 mmol) was reacted with piperidine (279 μL, 2.83 mmol) and triethylamine (394 μL, 2.83 mmol) in CH2Cl2 (5 mL) to afford the desired 2-[3-methoxy-4-(piperidin-1-ylmethyl)phenyl]-1,3-benzoxazole as a colorless solid: 1H NMR (CDCl3-d, 300 MHz) δ 7.86–7.83 (m, 1H), 7.79–7.76 (m, 1H), 7.73 (s, 1H), 7.61–7.55 (m, 2H), 7.37–7.34 (m, 2H), 3.96 (s, 3H), 3.59 (s, 2H), 2.47 (br, 4H), 1.66–1.58 (m, 4H), 1.46–1.45 (m, 2H). MS (ESI) 323 (M+)+.

reactant | 2-[3-methoxy-4-(pyrrolidin-1-ylmethyl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1CN1CCCC1)C=1OC2=C(N1)C=CC=C2 | C19H20N2O2
reactant | 2-[4-(bromomethyl)-3-methoxyphenyl]-1,3-benzoxazole | 0.942 mmol, 300 mg | BrCC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C15H12BrNO2
reactant | piperidine | 2.83 mmol, 279 μL | N1CCCCC1 | C5H11N
reactant | triethylamine | 2.83 mmol, 394 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-methoxy-4-(piperidin-1-ylmethyl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1CN1CCCCC1)C=1OC2=C(N1)C=CC=C2 | C20H22N2O2
